US04602099
In the procedure of Example 4(A), 2-methyltetradecanol was substituted for cis-11-tetradecenol and 5-bromo-2-furoic acid substituted for 5-chloro-2-furoic acid to yield 5-(2-methyltetradecyloxy)-2-furancarboxylic acid, M.P. 88°-90° C.

reactant | 2-methyltetradecanol | CC(CO)CCCCCCCCCCCC | C15H32O
reactant | cis-11-tetradecenol | C(CCCCCCCCC\C=C/CC)O | C14H28O
reactant | 5-bromo-2-furoic acid | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | 5-chloro-2-furoic acid | ClC1=CC=C(O1)C(=O)O | C5H3ClO3
product | 5-(2-methyltetradecyloxy)-2-furancarboxylic acid | CC(COC1=CC=C(O1)C(=O)O)CCCCCCCCCCCC | C20H34O4
